US07351713B2
3-(4-Methoxybenzyl)-1,3,8-triaza-spiro[4.5]decane-2,4-dione hydrochloride
To 1.15 g (2.95 mmol) of 3-(4-methoxybenzyl)-2,4-dioxo-1,3,8-triazaspiro[4.5]decane-8-carboxylic acid tert-butyl ester was added 8 mL of dioxan and 6 mL of 4N solution of dioxane/HCl. The reaction mixture was stirred for 2 hours at room temperature and concentrated in vacuo. The crude was dissolved in a minimum of methanol and diethyl ether was added to obtain, after filtration, the 3-(4-methoxybenzyl)-1,3,8-triaza-spiro[4.5]decane-2,4-dione hydrochloride as a white solid (644 mg, 67%).

reactant | 3-(4-methoxybenzyl)-2,4-dioxo-1,3,8-triazaspiro[4.5]decane-8-carboxylic acid tert-butyl ester | 2.95 mmol, 1.15 g | C(C)(C)(C)OC(=O)N1CCC2(C(N(C(N2)=O)CC2=CC=C(C=C2)OC)=O)CC1 | C20H27N3O5
reactant | dioxane HCl | O1CCOCC1.Cl
solvent | dioxan | 8 mL | O1CCOCC1 | C4H8O2
product | 3-(4-Methoxybenzyl)-1,3,8-triaza-spiro[4.5]decane-2,4-dione hydrochloride | Cl.COC1=CC=C(CN2C(NC3(C2=O)CCNCC3)=O)C=C1 | InChI=1S/C15H19N3O3.ClH/c1-21-12-4-2-11(3-5-12)10-18-13(19)15(17-14(18)20)6-8-16-9-7-15;/h2-5,16H,6-10H2,1H3,(H,17,20);1H
